US08227601B2
2-Amino-3-benzyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one
To a mixture of (E)-N′-(3-benzyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-2-yl)-N,N-dimethylformimidamide (21.2 g, 0.07 mol) in MeOH (382 mL) was added 3M NaOH (276 mL) and heated at 100° C. for 5 h. After completion of the reaction, the reaction mixture was cooled to 0° C. The solid was filtered (15.8 g, 91%) and used in the next step without further purification.

reactant | (E)-N′-(3-benzyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-2-yl)-N,N-dimethylformimidamide | 0.07 mol, 21.2 g | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)NC=C2)/N=C/N(C)C | C16H17N5O
reactant | NaOH | 3M, 276 mL | [OH-].[Na+]
solvent | MeOH | 382 mL | CO | CH4O
product | 2-Amino-3-benzyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | NC=1N(C(C2=C(N1)C=CN2)=O)CC2=CC=CC=C2 | C13H12N4O
